US09085578B2
A) 2-(4-(6-chloro-2-methylpyrimidin-4-yl)piperazin-1-yl)ethanol
To a solution of 4,6-dichloro-2-methylpyrimidine (3.00 g) in dichloromethane (35 mL) was added 2-(piperazin-1-yl)ethanol (4.51 mL) at room temperature, and the mixture was stirred for 4 hr. To the reaction mixture was added triethylamine (0.513 mL) at room temperature, and the reaction mixture was stirred overnight. The resulting solid was collected by filtration, washed with dichloromethane, and dried under reduced pressure to give the title compound (4.08 g).

reactant | 4,6-dichloro-2-methylpyrimidine | 3.00 g | ClC1=NC(=NC(=C1)Cl)C | C5H4Cl2N2
reactant | 2-(piperazin-1-yl)ethanol | 4.51 mL | N1(CCNCC1)CCO | C6H14N2O
reactant | triethylamine | 0.513 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
product | 2-(4-(6-chloro-2-methylpyrimidin-4-yl)piperazin-1-yl)ethanol | 4.08 g | ClC1=CC(=NC(=N1)C)N1CCN(CC1)CCO | C11H17ClN4O
